Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
epidural hematoma
 
Major Surgical or Invasive Procedure:
___: Right craniotomy evacuation EDH

 
History of Present Illness:
___ you M fell the night before presentation to the ED on ___ 
around 9pm.  Pt was drinking alcohol, went outside to smoke a 
cigarette and does not recall events after this.  His roommate 
found him at the bottom of a few steps, + LOC.  They carried him 
into the house. According to the roommate he declined transfer 
to medical facility but patient does not recall the events 
himself.  Today he developed worsening HA with nausea and 
vomiting, worsening right foot pain, no longer able to walk due 
to pain and so presented to the ED.  Head CT showed EDH and the 
patient was transported to ___ for further evaluation.  Also 
c/o right shoulder pain, right foot pain.

 
Past Medical History:
denies
 
Social History:
___
Family History:
NC
 
Physical Exam:
Exam on Admission
O: T: 98.0  HR:75  BP:141/91  RR:18  Sat: 100% RA  
Gen: uncomfortable, mild lethargy
HEENT: right forehead laceration, right periorbital ecchymosis
and edema, right eyelid swollen shut, right eye injected
Neck: c/o midline tenderness to palpation
Extrem: right shoulder abrasion and edema, right foot edema and
ecchymosis
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3
mm bilaterally. Visual fields not fully tested.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout except right foot 
not
fully tested, ___ and AT are at least antigravity. No pronator
drift.

Sensation: Intact to light touch bilaterally.

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger bilaterally

Handedness Right

EXAM ON DISCHARGE:

Gen: WD, WN. No signs of distress. 

HEENT: right forehead laceration, + periorbital ecchymosis
Pupils: PERRL ___
EOMs: Intact 
Extrem: warm and well-perfused 

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2 to 1mm 
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator
drift.

Sensation: Intact to light touch bilaterally.

On Discharge:
EO spont. A&Ox3. PERRL ___. R periorbital ___, TML, No 
drift. Speech fluent. ___ strength throughout. 

 
Pertinent Results:
___ AP/Lateral L spine
No radiographic evidence of thoracic or lumbar spine fracture

___ NCHCT
1. Expected postoperative changes after evacuation of a right 
epidural 
hematoma. 
2. Small left frontal extra-axial collection is unchanged.  No 
new hemorrhage. 
3. Nondisplaced fracture through the medial superior right 
orbital wall with extension through the inner table of the right 
frontal sinus and ethmoid bone. 

___ R foot
No comparison.  6 images of the ankle and the right foot are 
provided.  No 
focal soft tissue swelling.  No abnormalities of the soft 
tissues.  No 
evidence of cortical disruptions suspicious for fractures.  The 
joint spaces are normal, without evidence of erosive or chronic 
inflammatory disease. 

___ CT SINUS/MANDIBLE/MAXILLOFACIA
1. Soft tissue stranding along the right face and neck without 
discrete 
collection.  Otherwise stable examination from 1 day prior. 
2. Decreasing in right frontal soft tissue air with soft tissue 
swelling may indicate fluid within this region. 

___ CT abdomen/pelvis with contrast
1. No definite CT findings to explain patient's symptoms.
  

___ CT neck with contrast
1. Extensive right-sided scalp swelling with inferior extension 
of 
subcutaneous fat stranding to the level of the thyroid.  No 
focal fluid 
collection. 
2. Postoperative pneumocephalus post right frontal craniotomy 
for evacuation of a right frontal epidural hematoma. 

 
Brief Hospital Course:
On ___, the patient complained of midline C/T/L spine tenderness 
for which the trauma team ordered plain xray films. The patient 
was taken to OR for evacuation of an epidural hematoma.

On ___, the patient was noted to have right neck swelling. A 
NCHCT/neck was obtained which showed post operative changes with 
no focal fluid collection in the neck. 

On ___, the patient was transferred to the floor. He remained 
neurologically stable. 

On ___, the patient's neurological exam was stable. 

On ___ he was mobilizing and tolerating a good PO diet. He was 
deemed fit for discharge after being cleared by Physical 
therapy. He was given instructions for followup, prescriptions 
for required medications, and all questions were answered prior 
to discharge.
 
Medications on Admission:
acyclovir (from OMR)

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Azithromycin 500 mg PO Q24H 
RX *azithromycin 500 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
3.  Diazepam 5 mg PO Q6H:PRN Pain/muscle spasm 
RX *diazepam 5 mg 1 tab by mouth q8hours Disp #*30 Tablet 
Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
5.  Nicotine Patch 21 mg TD DAILY 
If you smoke and have not stopped smoking yet, please consider 
doing so.  
RX *nicotine 21 mg/24 hour 1 patch daily Disp #*14 Patch 
Refills:*0 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4hours Disp #*45 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epidural hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
You underwent a surgery called a craniotomy to have blood 
removed from your brain. 
Please keep your sutures or staples along your incision dry 
until they are removed.
It is best to keep your incision open to air but it is ok to 
cover it when outside. 
Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 
Sinus precautions- head of bed elevation. No straws, smoking, 
blowing nose.
If you smoke and have not stopped smoking yet, please consider 
doing so. We can help you find a program that can help you make 
this very important change. 

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
You have been discharged on Azithromycin as prophylactic 
coverage to prevent infection due to your sinus fractures. You 
should take this as directed until ___. 

You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
You may have difficulty paying attention, concentrating, and 
remembering new information.
Emotional and/or behavioral difficulties are common. 
Feeling more tired, restlessness, irritability, and mood 
swings are also common.
You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
Headache is one of the most common symptoms after a brain 
bleed. 
Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___